US05102877
To a solution of 1-allyloxycarbonyl-3-hydroxymethylpyrrolidine (2.6 g) in acetone was added Jones reagent (1.25N, 20 ml) at ambient temperature. After stirring for 1 hour, isopropyl alcohol (10 ml) was added thereto. The resulting precipitate was removed by filtration and the filtrate was evaporated in vacuo. The residue was dissolved in dichloromethane, dicyclohexylcarbodiimide (0.79 g), Meldrum's acid (0.55 g), 4-methylaminopyridine (0.47 g) to the solution at 0° C. After stirring for 24 hours at ambient temperature, the resulting precipitate was removed by filtration. The filtrate was washed with 1N hydrochloric acid and evaporated in vacuo. The residue was dissolved in a mixture of acetic acid (10 ml) and water (7 ml), and the mixture was refluxed for 1 hour. Evaporation of the solvent gave a residue, which was taken up into ethyl acetate. The solution was washed in turn with saturated sodium bicarbonate and brine, dried over magnesium sulfate, and evaporated. The residue was chromatographed on silica gel eluting with a mixture of n-hexane and ethyl acetate (2:1, V/V) to give 3-acetyl-1-allyloxycarbonylpyrrolidine (2.01 g).

reactant | 1-allyloxycarbonyl-3-hydroxymethylpyrrolidine | 2.6 g | C(C=C)OC(=O)N1CC(CC1)CO | C9H15NO3
reactant | Jones reagent | 1.25N, 20 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
product | 3-acetyl-1-allyloxycarbonylpyrrolidine | 2.01 g | C(C)(=O)C1CN(CC1)C(=O)OCC=C | C10H15NO3
